US08877754B2
4-Iodo-N-propyl-2-pyridone
2.00 g (9.05 mmol) 4-iodo-2-pyridone (XXII.1) are added to 1.00 mL (10.9 mmol) 1-bromopropane and 3.13 g (22.6 mmol) K2CO3 in 10 mL DMF. The mixture is stirred at rt over night. After that time, water is added and the mixture is extracted with EtOAc. The organic layer is washed with aq. NaHCO3 solution, dried over sodium sulphate and the solvent is removed in vacuo. The residue is purified by RP-HPLC (water+0.15% FA, MeOH).

reactant | 4-iodo-2-pyridone | 9.05 mmol, 2.00 g | IC1=CC(NC=C1)=O | C5H4INO
reactant | 1-bromopropane | 10.9 mmol, 1.00 mL | BrCCC | C3H7Br
reactant | K2CO3 | 22.6 mmol, 3.13 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-Iodo-N-propyl-2-pyridone | IC1=CC(N(C=C1)CCC)=O | C8H10INO
